US07368453B2
A solution of 3-methyl-1-(phenylmethyl)-4-piperidinone (1.5 g, 7.4 mmol) in methanol (10 mL) was treated with 4.0 N HCl/dioxane (2.2 mL), followed by palladium hydroxide. The mixture was then reacted overnight with hydrogen gas at 50 psi. The reaction was then filtered through Celite, concentrated, and then taken up in THF (20 mL). The crude reaction mixture was then treated with triethylamine (2.3 mL), followed by di-tert-butyl dicarbonate (1.9 g, 8.9 mmol). The reaction was stirred for two hours, concentrated, taken up in dichloromethane and washed with saturated aqueous ammonium hydroxide, followed by brine. The organic layer was dried over magnesium sulfate and purified by column chromatography to provide 734 mg of 1,1-dimethylethyl 3-methyl-4-oxo-1-piperidinecarboxylate as a white solid. 1H NMR (400 MHz, CDCl3) δ ppm 1.0 (d, J=6.69, 3 H) 1.5 (s, 9 H) 2.4 (m, 2 H) 2.5 (m, 1 H) 2.8 (m, 1 H) 3.2 (m, 1 H) 4.2 (m, 2 H).

reactant | 3-methyl-1-(phenylmethyl)-4-piperidinone | 7.4 mmol, 1.5 g | CC1CN(CCC1=O)CC1=CC=CC=C1 | C13H17NO
reactant | HCl dioxane | 4.0 N, 2.2 mL | Cl.O1CCOCC1
reactant | hydrogen | [H][H] | H2
reactant | di-tert-butyl dicarbonate | 8.9 mmol, 1.9 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 10 mL | CO | CH4O
catalyst | palladium hydroxide | [OH-].[Pd+2].[OH-]
solvent | triethylamine | 2.3 mL | C(C)N(CC)CC | C6H15N
product | 1,1-dimethylethyl 3-methyl-4-oxo-1-piperidinecarboxylate | 734 mg | CC1CN(CCC1=O)C(=O)OC(C)(C)C | C11H19NO3
